US07138483B2
2,7-Dichloro-9-(3,7-dimethyl-octyl)-9H-carbazole
2,7-Dichlorocarbazole (synthesized according to the procedure by Leclerc et al: Morin, Jean-Francois; Leclerc, Mario; Macromolecules (2001), 34(14), 4680–4682) (10.7 g, 45.3 mmol) was added to a 50% w/w aqueous solution of potassium hydroxide (75 ml) and Aliquat-336 (0.5 ml). 1-Bromo-3,7-dimethyloctane (12.0 g, 54.3 mmol) was added dropwise and the reaction mixture was heated at 85° C. for 12 h. After cooling to room temperature, methylene chloride was added. The reaction mixture was transferred to a separation funnel and the organic layer was removed. The aqueous layer was extracted with methylene chloride (3×) and the combined organic layers were dried over magnesium sulfate. After removal of the solvent in vacuo, the crude product was purified by column chromatography (silica gel, hexane) to yield 13.5 g of the product as colorless solid.

reactant | 2,7-Dichlorocarbazole | ClC1=CC=2NC3=CC(=CC=C3C2C=C1)Cl | C12H7Cl2N
reactant | potassium hydroxide | 75 ml | [OH-].[K+]
reactant | Aliquat-336 | 0.5 ml | CCCCCCCC(=O)C(C(=O)CCCCCCC)(C(=O)CCCCCCC)[NH3+].[Cl-]
reactant | 1-Bromo-3,7-dimethyloctane | 54.3 mmol, 12.0 g | BrCCC(CCCC(C)C)C | C10H21Br
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,7-Dichloro-9-(3,7-dimethyl-octyl)-9H-carbazole | 13.5 g | ClC1=CC=2N(C3=CC(=CC=C3C2C=C1)Cl)CCC(CCCC(C)C)C | C22H27Cl2N
